data/oMe_Silver.jsonl
{"reaction_id": "NR-229_1-c1ccc(OC)cc1_2-CC_3-C1CCC1_4-c1ccc2ccccc2c1_5-c1ccsc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(c1ccc(OC)cc1)(CC)","C(C1CCC1)=C(c1ccc2ccccc2c1)(c1ccsc1)","O"],"products_smiles": ["C([OH])(c1ccc2ccccc2c1)(c1ccsc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(OC)cc1)(CC)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](c1ccc2ccccc2c1)(c1ccsc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(c1ccc2ccccc2c1)(c1ccsc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(c1ccc2ccccc2c1)(c1ccsc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
{"reaction_id": "NR-242_1-C(C)(C)C_2-CC(C)C_3-CC","level": "hard","name": "Stobbe Condensation","reactants_smiles": ["C(=O)(C(C)(C)C)(CC(C)C)","C(=O)(OCC)CCC(=O)(OCC)"],"products_smiles": ["C(=C(C(=O)OCC)CC(=O)O)(C(C)(C)C)(CC(C)C)"],"conditions": "1. Base (e.g. NaOMe), 2. H3O+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C(C)(C)C)(CC(C)C)C(C(=O)OCC)CC(=O)OCC","step_weight": 0,"rationale": "Base deprotonates the α-position of C(C)(C)C–CC(C)C ketone, generating an enolate stabilized by resonance with the carbonyl, which then attacks the electrophilic ester carbonyl of the diester."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C)C)(CC(C)C)C(C(=O)OCC)CC([O-])(OCC)O1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack occurs as the alkoxide oxygen attacks another ester carbonyl, favored by proximity and formation of a five-membered cyclic intermediate."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C(C)(C)C)(CC(C)C)C(C(=O)OCC)CC(=O)O1","step_weight": 0,"rationale": "The alkoxide eliminates the alkoxy group from the ester, as the leaving group is stabilized by resonance with the adjacent carbonyl, forming a lactone."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)(CC(C)C)[C-](C(=O)OCC)CC(=O)O1","step_weight": 0,"rationale": "Base abstracts an acidic α-proton adjacent to the lactone carbonyl, generating an enolate stabilized by conjugation with the carbonyl group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OCC)CC(=O)[O-])(C(C)(C)C)(CC(C)C)","step_weight": 0,"rationale": "The enolate facilitates elimination of the alkoxide from the lactone, opening the ring and forming a conjugated α,β-unsaturated diester anion, driven by extended conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(=O)OCC)CC(=O)O)(C(C)(C)C)(CC(C)C)","step_weight": 0,"rationale": "Acidic work-up protonates the carboxylate anion, yielding the neutral α,β-unsaturated diacid product."}],"description": "Under basic conditions, the Stobbe condensation proceeds via nucleophilic attack of an enolate on a diester, forming a cyclic intermediate. Sequential eliminations and proton transfers lead to an α,β-unsaturated diacid framework after acid work-up, driven by resonance stabilization and relief of ring strain."}
